US04933355
2-Octylaminothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 1.3 g of 2-octylaminothiazol-4-ylmethanol, 2.6 g of pyrid:ne sulfur trioxide complex, 1.6 g of triethylamine and 20 ml of dimethyl sulfoxide. giving the title compound as pale brown needles.

reactant | 2-octylaminothiazol-4-ylmethanol | 1.3 g | C(CCCCCCC)NC=1SC=C(N1)CO | C12H22N2OS
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-Octylaminothiazole-4-carbaldehyde | C(CCCCCCC)NC=1SC=C(N1)C=O | C12H20N2OS
